US03998834
A solution of 62.3 parts of 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid, sodium salt in 28.4 parts of iodomethane is stirred and heated to 100° C. After cooling to 10° C, there are added dropwise 340 parts of hexamethylphosphoric triamide (slightly exothermic reaction). Upon completion, stirring is continued for 24 hours at room temperature. The reaction mixture is poured onto water (800 parts) and the product is extracted with methylbenzene. The extract is washed with water, dried, filtered and evaporated. The oily residue solidifies on triturating in 2,2'-oxybispropane. The product is filtered off and crystallized from 2,2'-oxybispropane, yielding methyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate; mp. 94.9° C.

reactant | 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)O | C20H24N2O2
reactant | sodium | [Na] | Na
reactant | iodomethane | IC | CH3I
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | methyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OC | C21H26N2O2
